US06498154B1
5(2-Methylspiro[4H-3,1-benzoxazine-4,1′-cyclopentane]-6-yl)-4 methyl-2-thiophenecarbonitrile
The title compound was prepared according to the procedure for Example 13 from 2-methyl-6-bromospiro[4H-3,1-benzoxazine-4,1′-cyclopentane] and 5-bromo-4-methyl-2-thiophenecarbonitrile. A yellowish solid: mp 58-60° C.; 1H-NMR (DMSO-d6) δ 7.79 (s, 1H), 7.16 (d, 1H, J=1.9 Hz), 7.12 (dd, 1H, J=8.4, 2.2 Hz), 6.66 (s, 1H), 6.63 (d, 1H, J 8.4 Hz), 4.75 (m, 1H), 2.26 (s, 3H), 2.14 (m, 1H), 1.87 (m, 1H), 1.4-1.7 (m, 6H), 1.32 (d, 3H, J=5.5 Hz).

reactant | 2-methyl-6-bromospiro[4H-3,1-benzoxazine-4,1′-cyclopentane] | CC1=NC2=C(C=C(C=C2)Br)C2(CCCC2)O1 | C13H14BrNO
reactant | 5-bromo-4-methyl-2-thiophenecarbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
product | 5(2-Methylspiro[4H-3,1-benzoxazine-4,1′-cyclopentane]-6-yl)-4 methyl-2-thiophenecarbonitrile | CC1=NC2=C(C=C(C=C2)C2=C(C=C(S2)C#N)C)C2(CCCC2)O1 | C19H18N2OS
